US05591742
Ethyl 3-amino-4-n-propylpyridine-2-carboxylate
3-Amino-4-n-propylpyridine-2-carboxylic acid (Preparation 4; 0.36 g, 0,002 mol) was added to a stirred mixture of cesium carbonate (0,325 g, 0.001 mol) in water (20 ml), then this mixture was evaporated under vacuum and the residue azeotroped with dimethylformamide (2×20 ml). The resulting cesium salt was suspended in dimethylformamide (3 ml) and the stirred suspension then treated dropwise with ethyl iodide (0.17 ml, 0.0021 mol). After a further 0.25 hour, the solvent was evaporated under vacuum and the residue partitioned between water (20 ml) and ethyl acetate (20 ml). The organic phase was washed with water (10 ml), dried (MgSO4) and evaporated under vacuum, then the residue crystallised from acetone:hexane to give the title compound as an off-white solid (0.35 g, 84%), m.p. 93°-96° C. Found: C,63.39; H,7.73; N,13.39. C11H16N2O2 requires C,63.44; H,7.74; N,13.45%.

reactant | 3-Amino-4-n-propylpyridine-2-carboxylic acid | 0,002 mol, 0.36 g | NC=1C(=NC=CC1CCC)C(=O)O | C9H12N2O2
reactant | cesium carbonate | 0.001 mol, 0,325 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl iodide | 0.0021 mol, 0.17 ml | C(C)I | C2H5I
solvent | water | 20 ml | O | H2O
product | Ethyl 3-amino-4-n-propylpyridine-2-carboxylate | 0.35 g, 84% | NC=1C(=NC=CC1CCC)C(=O)OCC | C11H16N2O2
